US07230023B2
(2) 2-[(Allyloxycarbonyl)oxymethyl]benzoic acid
A mixture of 4-methoxybenzyl 2-[(allyloxycarbonyl)oxymethyl]benzoate (6.80 g, 19.1 mmol) obtained from Example 17-(1) and anisole (5 g) was dissolved in trifluoroacetic acid (10 ml) at room temperature. The mixture was stirred for 15 minutes, then diluted with toluene, and the solvent was distilled off under reduced pressure. The residue was washed with hexane to afford the crude title compound (3.87 g, 86%) as a colorless solid.

reactant | 4-methoxybenzyl 2-[(allyloxycarbonyl)oxymethyl]benzoate | 19.1 mmol, 6.80 g | C(C=C)OC(=O)OCC1=C(C(=O)OCC2=CC=C(C=C2)OC)C=CC=C1 | C20H20O6
reactant | anisole | 5 g | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[(Allyloxycarbonyl)oxymethyl]benzoic acid | 3.87 g, 86% | C(C=C)OC(=O)OCC1=C(C(=O)O)C=CC=C1 | C12H12O5
